US04052341
A mixture of campholenic aldehyde (456 g, 3.0 mol) and freshly distilled propionaldehyde (348 g, 6.0 mol) was slowly added, over a 1.0 hour period, to a stirred refluxing solution of 18 ml of 40% aqueous sodium hydroxide and 800 ml methanol. The mixture was refluxed an additional two hours, cooled to room temperature and poured into 1,000 ml of water. The resultant solution was extracted three times with 300 ml of hexane. The hexane extracts were combined, washed first with 600 ml of water and then with 600 ml of brine. The solvent was removed by distillation and the oil fractionally distilled to yield the 2-methyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)but-2-enal. Yield 323 g (56.1% theory); bp 64°-65° C (0.9 mm); mol wt. 192 (ms); ir, 3035, 2710, 1690 (s), 1640 (s), 800 cm-1 ; nmr, 0.8δ and 1.0 (6 H, 2s, geminal dimethyl groups), 1.7 (3H, broad s, olefinic methyl attached to the cyclopentenyl group), 1.9-2.2 (3H, broad multiplet), 2.3-2.6 (3H, broad multiplet), 5.3 (1H, broad multiplet, olefinic H), 6.6 (1H, t, J~7.5 Hz), 9.4 (1H, sharp s, aldehyde H).

reactant | campholenic aldehyde | 3.0 mol, 456 g | CC1=CCC(C1(C)C)CC=O | C10H16O
reactant | propionaldehyde | 6.0 mol, 348 g | C(CC)=O | C3H6O
reactant | sodium hydroxide | 18 ml | [OH-].[Na+]
reactant | methanol | 800 ml | CO | CH4O
solvent | water | 1,000 ml | O | H2O
product | 2-methyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)but-2-enal | CC(C=O)=CCC1C(C(=CC1)C)(C)C | C13H20O
